US08865726B2
A solution of (S)-2-(benzyloxycarbonylamino)-3-cyclopropylpropanoic acid (0.292 g, 1.11 mmol) in THF (2 mL) was cooled to 0° C. and treated with borane-THF complex (1.44 mL, 1.44 mmol). The mixture was stirred at ambient temperature for 4 hours and then treated with 1N HCl until bubbling ceased. After stirring at ambient temperature overnight, the organic solvent was concentrated. The residue is treated with EtOAc, aqueous phase removed, organic phase washed with 1N NaOH, dried (phase separator silicone treated filter paper), concentrated to provide (S)-benzyl 1-cyclopropyl-3-hydroxypropan-2-ylcarbamate (0.156 g, 56% yield) as a white gum.

reactant | (S)-2-(benzyloxycarbonylamino)-3-cyclopropylpropanoic acid | 1.11 mmol, 0.292 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CC1CC1 | C14H17NO4
reactant | HCl | 1N | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (S)-benzyl 1-cyclopropyl-3-hydroxypropan-2-ylcarbamate | 0.156 g, 56% yield | C1(CC1)C[C@@H](CO)NC(OCC1=CC=CC=C1)=O | C14H19NO3
